US06911508B2
Preparation of (Tetramethylcyclopentadienyl)indenylzirconium dichloride. (Me4Cp)IndZrCl2
To a manila-pink suspension of tetramethylcyclopentadienyl)zirconium trichloride, (Me4Cp)ZrCl3, (5.00 g, 15.7 mmol, 1.00 equiv.) in ether (100 mL) was added lithium indenide (1.91 g, 15.6 mmol, 1.00 equiv.). The reaction turned light, creamy yellow and became thick with precipitate. The mixture was stirred 17 hours and then evaporated in vacuo, leaving light yellow solid. The solid was extracted with dichloromethane (100 mL, then 3×10 mL) and the extracts were filtered to give beige solid and a yellow solution. The solution was evaporated in vacuo, leaving fluffy yellow solid. The solid was washed with pentane (2×20 mL) and dried in vacuo. Yield 5.88 g (94%). 1H NMR(CD2Cl2): δ 1.93 (s, 12H, Me), 5.86 (s, 1H, Cp-H), 6.36 (d, 2H, Ind-H), 6.67 (t, 1H, Ind-H), 7.25 (m, 2H, Ind-H), 7.61 (m, 2H, Ind-H).

reactant | zirconium trichloride | [Cl-].[Cl-].[Cl-].[Zr+3]
reactant | lithium indenide | 15.6 mmol, 1.91 g, 1.00 equiv. | [CH-]1C=CC2=CC=CC=C12.[Li+]
reactant | ether | 100 mL | CCOCC | C4H10O
product | (Tetramethylcyclopentadienyl)indenylzirconium dichloride | [Cl-].[Cl-].CC=1C(=C(C(C1)(C)[Zr+2]C1C=CC2=CC=CC=C12)C)C | InChI=1S/C9H7.C9H13.2ClH.Zr/c1-2-5-9-7-3-6-8(9)4-1;1-6-5-7(2)9(4)8(6)3;;;/h1-7H;5H,1-4H3;2*1H;/q;;;;+2/p-2
